US06232025B1
Poly(bisphenol-A-benzophenone-diphenylhydrazone)
In a 100 mL single neck round bottom flask was weighed poly(bisphenol-A-benzophenone) (5.000 g, 11.50 mmol), 1,1 -diphenylhydrazine hydrochloride (2.714 g, 12.30 mmol) , THF (18 g) and N,N-dimethylacetamide (18 g). The flask was fitted with a condensor. The dark slurry was stirred with a magnetic stirrer to dissolve the starting materials. To the dark solution was added methanesulfonic acid (about 6 drops), and the solution heated to reflux . After stirring for about 4 hours, the orange polymer solution was precipitated in water, and chopped in a high speed blender. The yellow fibrous polymer was isolated by filtration, washed in boiling water (about 45 min.), filtered, washed in boiling methanol (about 45 min.), filtered and dried at about 100° C. for about 16 hours. The yield was about 5.29 g. The number average molecular weight of the polymer was about 11.8K.

reactant | bisphenol-A benzophenone | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C(C1=CC=CC=C1)(=O)C1=CC=CC=C1
reactant | 1,1 -diphenylhydrazine hydrochloride | 12.30 mmol, 2.714 g | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
reactant | THF | 18 g | C1CCOC1 | C4H8O
catalyst | methanesulfonic acid | about 6 drops | CS(=O)(=O)O | CH4O3S
solvent | N,N-dimethylacetamide | 18 g | CN(C(C)=O)C | C4H9NO
product | bisphenol-A benzophenone-diphenylhydrazone | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C1(=CC=CC=C1)N(N=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H20N2.C15H16O2/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22)26-27(23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12/h1-20H;3-10,16-17H,1-2H3
